US04287341
4-(3-Methoxypropoxy)piperidine
A solution of N-acetyl-4-hydroxypiperidine (30.5 g.) in dimethylformamide (200 ml.) is added dropwise to a stirred suspension of sodium hydride (11.26 g., 50% dispersion in mineral oil) in dimethylformamide (300 ml.) under an atmosphere of nitrogen. The reaction temperature is kept below 30° C. by external cooling and, after the addition is complete, stirring is continued for a further 11/4 hours. A solution of 1-bromo-3-methoxypropane (35.2 g.) in dimethylformamide (100 ml.) is then added dropwise with external cooling, and the resulting clear solution is stirred at room temperature overnight. The reaction mixture is then evaporated in vacuo, the residue partitioned between water and chloroform, the organic extracts dried (Na2SO4) and evaporated to leave a crude residue. The above aqueous phase is saturated with sodium chloride, further extracted with chloroform, and the organic phase is dried (Na2SO4), and evaporated to leave a further residue. This residue is combined with the original residue and heated on a steam bath overnight with hydrochloric acid (243 ml., 2 N). The reaction mixture is extracted with chloroform to remove the residual mineral oil, the aqueous phase concentrated, basified with sodium hydroxide (pH 12), then reextracted with chloroform. The organic extracts are washed with brine, dried (Na2SO4) and evaporated to afford the desired product.

reactant | N-acetyl-4-hydroxypiperidine | 30.5 g | C(C)(=O)N1CCC(CC1)O | C7H13NO2
reactant | sodium hydride | 11.26 g | [H-].[Na+]
reactant | 1-bromo-3-methoxypropane | 35.2 g | BrCCCOC | C4H9BrO
reactant | sodium chloride | [Cl-].[Na+]
reactant | hydrochloric acid | 2 N, 243 ml | Cl | ClH
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-(3-Methoxypropoxy)piperidine | COCCCOC1CCNCC1 | C9H19NO2
